US08633312B2
2-(2,4-Difluorophenylamino)-8-(3-hydroxypropoxy)-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one (12j)
In accordance with general method O, 0.65 g (1.8 mmol) of acetic acid 3-(8-chloro-5-oxo-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-2-yloxy)-propyl ester, 0.25 g (1.9 mmol) of 2,4-difluoroaniline, 0.04 g of Pd(OAc)2, 0.17 g of phosphine ligand and 0.74 g (7.7 mmol) of Na—O-tert-butylate are reacted in 10 ml of toluene and 2 ml of tert-BuOH. Yield: 42%; m.p.: 154° C.

reactant | acetic acid 3-(8-chloro-5-oxo-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-2-yloxy)-propyl ester | 1.8 mmol, 0.65 g | ClC=1C=CC2=C(CCC3=C(C2=O)C=CC(=C3)OCCCOC(C)=O)C1 | C20H19ClO4
reactant | 2,4-difluoroaniline | 1.9 mmol, 0.25 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | phosphine | 0.17 g | P | H3P
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | tert-BuOH | 2 ml | C(C)(C)(C)O | C4H10O
catalyst | Pd(OAc)2 | 0.04 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-(2,4-Difluorophenylamino)-8-(3-hydroxypropoxy)-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one | Yield: 42% | FC1=C(C=CC(=C1)F)NC1=CC2=C(C(C3=C(CC2)C=C(C=C3)OCCCO)=O)C=C1 | C24H21F2NO3
